US04038396
To an ice-cold mixture of 3 ml. of concentrated sulfuric acid and 3 ml. of fuming nitric acid, was added 0.5 g. of 3-methoxy-2-methylpyridine over 5 minutes. After warming spontaneously to room temperature the mixture was heated at 55°-60° C. for 6 hours. The mixture was cooled and added to 35 ml. of ice-water. After stirring 2 hours, the precipitate was collected and dried to give 3-methoxy-2-methyl-6-nitropyridine, m.p. 99°-100.5° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 3-methoxy-2-methylpyridine | COC=1C(=NC=CC1)C | C7H9NO
product | 3-methoxy-2-methyl-6-nitropyridine | COC=1C(=NC(=CC1)[N+](=O)[O-])C | C7H8N2O3
